US06229020B1
Synthesis of (E) 2-methyl-3-(2-nitrophenyl)-2-propenoic acid
Into 200 ml of methanol, 11.8 g (50.2 mmol) of ethyl 2-methyl-3-(2-nitrophenyl)-2-propenate were dissolved; and, with 200 ml of a 2-N aqueous sodium hydroxide solution being added thereto, the mixture was stirred at 40° C. for one night. After the completion of the reaction was verified by TLC, the reaction liquid was concentrated under a reduced pressure. After the pH was adjusted to 1 with 1-N hydrochloric acid being added thereto, the resulting residue was dissolved in ethyl acetate. After being washed three times with water, the solution was dried for one night with sodium sulfate anhydride being added thereto. After sodium sulfate was filtered out from the dried solution, the filtrate was concentrated under a reduced pressure, whereby 10.2 g of the aimed compound were obtained as a crystal (yield: 98.0%).

reactant | ethyl 2-methyl-3-(2-nitrophenyl)-2-propenate | 50.2 mmol, 11.8 g | CC(C(=O)OCC)=CC1=C(C=CC=C1)[N+](=O)[O-] | C12H13NO4
reactant | sodium hydroxide | 200 ml | [OH-].[Na+]
solvent | methanol | 200 ml | CO | CH4O
product | 2-methyl-3-(2-nitrophenyl)-2-propenoic acid | 10.2 g | CC(C(=O)O)=CC1=C(C=CC=C1)[N+](=O)[O-] | C10H9NO4
